US07390903B2
To a stirred solution of 0.50 g (1.39 mmol) 2-amino-3-benzoyl-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid tert-butyl ester in 6 ml acetic acid was added 0.19 ml (1.89 mmol) of pentane-2,4-dione and two drops of sulfuric acid. The mixture was then stirred at 100° C. for 25 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 4:1) afforded 70 mg (12%) 3-acetyl-2-methyl-4-phenyl-5,8-dihydro-6H-9-thia-1,7-diaza-fluorene-7-carboxylic acid tert-butyl ester as a yellow oil. ES-MS m/e (%): 423 (M+H+, 100).

reactant | 2-amino-3-benzoyl-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid tert-butyl ester | 1.39 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C(=C(S2)N)C(C2=CC=CC=C2)=O | C19H22N2O3S
reactant | pentane-2,4-dione | 1.89 mmol, 0.19 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
product | 3-acetyl-2-methyl-4-phenyl-5,8-dihydro-6H-9-thia-1,7-diaza-fluorene-7-carboxylic acid tert-butyl ester | 70 mg, 12% | C(C)(C)(C)OC(=O)N1CCC=2C=3C(=C(C(=NC3SC2C1)C)C(C)=O)C1=CC=CC=C1 | C24H26N2O3S
